US07534547B2
Thionyl chloride (10 ml) was added to 5.0 g (19.5 mmol) of 4-(4-n-propyloxyphenyl)benzoic acid synthesized in the step (ii), and the mixture was refluxed overnight. After an excess amount of thionyl chloride was removed from the resultant mixture, 4′-(n-propyloxy)-4-(tert-butoxycarbonyl)biphenyl was obtained in the same manner as in the Example 104.

reactant | 4-(4-n-propyloxyphenyl)benzoic acid | 19.5 mmol, 5.0 g | C(CC)OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C16H16O3
solvent | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 4′-(n-propyloxy)-4-(tert-butoxycarbonyl)biphenyl | C(CC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC(C)(C)C | C20H24O3
